US04369274
Preparation of 4-[(Diallylamino)carbonyl]-1,2,2,6,6-pentamethylpiperidine
4-[(Diallylamino)carbonyl]-2,2,6,6-tetramethylpiperidine (58.0 grams; 0.219 mole) is slurried in 37% formaldehyde (98.6 mls) at room temperature and 95% formic acid (17.4 mls) is added thereto. The mixture is heated at reflux for 18 hours and the resulting two-phase reaction mixture is adjusted to pH 11-12 by adding 50% sodium hydroxide. The mixture is extracted with dichloromethane and the organic extracts are combined and evaporated to obtain a clear liquid which on distillation affords 58.3 grams of the desired product which boils at 118°-125° C. at 0.10-0.15 mm of mercury.

reactant | 4-[(Diallylamino)carbonyl]-2,2,6,6-tetramethylpiperidine | 0.219 mole, 58.0 grams | C(C=C)N(C(=O)C1CC(NC(C1)(C)C)(C)C)CC=C | C16H28N2O
reactant | formic acid | 17.4 mls | C(=O)O | CH2O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | formaldehyde | 98.6 mls | C=O | CH2O
product | 4-[(Diallylamino)carbonyl]-1,2,2,6,6-pentamethylpiperidine | 58.3 grams | C(C=C)N(C(=O)C1CC(N(C(C1)(C)C)C)(C)C)CC=C | C17H30N2O
